US05948793
78a. 3-((cis-4-fluoro-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine
A 100 mg (0.5 mmol) sample of 3-((trans-1-methyl-4-hydroxy-2(S)-pyrrolidinyl)methoxy)pyridine, from Example 23 above, above was dissolved in 10 mL of methylene chloride and cooled to -78° C. To this was added 0.165 mL (1.25 mmol) of DAST, and the mixture was stirred for 4 hours while allowing the reaction mixture to warm to room temperature. The reaction was quenched by addition of satd NaHCO3 solution, and the mixture was extracted with chloroform. The solvent was removed, and the residue was purified by chromatography on silica gel, eluting with 20:1 CHCl3 :methanol, to give 30 mg of title compound.

reactant | 3-((trans-1-methyl-4-hydroxy-2(S)-pyrrolidinyl)methoxy)pyridine | CN1[C@@H](C[C@H](C1)O)COC=1C=NC=CC1 | C11H16N2O2
reactant | DAST | 1.25 mmol, 0.165 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-((cis-4-fluoro-1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine | 30 mg | F[C@H]1C[C@H](N(C1)C)COC=1C=NC=CC1 | C11H15FN2O
